2139-05-19 07:32:00 Physician Resident Progress Note
Chief Complaint: Acute on chronic diastolic CHF, pulmonary HTN
   24 Hour Events:
   -RHC showed PCWP of 25 (mean), PA pressure 68/30 (mean 51), RV 64/15
   (mean 22), RA 16-19. CI 2.5 (severe LV diastolic dysfxn, pulm HTN)
   -put out 750 cc to lasix 20 mg IV, PAP 50-60/20-30
   -gave another lasix 20 mg IV @ 2100
   -started heparin/coumadin for PE/AFib
   -added captopril 6.25 TID for afterload reduction
   Allergies:
   Sulfa (Sulfonamides)
   Unknown; Hives;
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2139-5-19**] 06:35 AM
   Other medications:
   Changes to medical and family history: N/A
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-19**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 76 (54 - 76) bpm
   BP: 113/82(88) {99/55(64) - 127/94(110)} mmHg
   RR: 35 (13 - 35) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 75 Inch
    CVP: 8 (8 - 30)mmHg
   PAP: (48 mmHg) / (27 mmHg)
   PCWP: 23 (23 - 25) mmHg
   CO/CI (Fick): (4.1 L/min) / (1.9 L/min/m2)
   Mixed Venous O2% Sat: 63 - 68
   SVR 1445dynes/sec x cm^-5
   Total In:
                                                                    309 mL
                                                                    456 mL
   PO:
                                                                    200 mL
   TF:
   IVF:
                                                                    309 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    900 mL
   Urine:
                                                                  1,650 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,341 mL
                                                                   -444 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   Physical Examination
   GEN: well-appearing NAD
   HEENT: anicteric
   NECK: R swan cath c/d/i
   CV: irreg irreg no m/r/g
   PULM: scattered end-exp wheezes bilat no rales/rhonchi
   ABD: soft NTND normoactive BS
   EXT: warm, dry +PP no edema
   Labs / Radiology
   180 K/uL
   14.2 g/dL
   97 mg/dL
   1.5 mg/dL
   27 mEq/L
   3.6 mEq/L
   22 mg/dL
   103 mEq/L
   139 mEq/L
   44
   6.8 K/uL
        [image002.jpg]
                             [**2139-5-18**]  10:56 AM
                             [**2139-5-19**]  03:50 AM
                             [**2139-5-19**]  04:14 AM
   WBC
   7.7
   6.8
   Hct
   42.6
   42.5
   44
   Plt
   197
   180
   Cr
   1.7
   1.5
   Glucose
   99
   97
   Other labs: PT / PTT / INR:20.9/38.4/2.0, Differential-Neuts:58.3 %,
   Lymph:30.8 %, Mono:7.5 %, Eos:2.5 %, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   53 M h/o cryptogenic cirrhosis awaiting transplant, portal
   hypertension, pulmonary hypertension, chronic diastolic CHF, PE and
   Afib on coumadin admitted for elective RHC demonstrating acute on
   chronic LV diastolic dysfunction and pulmonary hypertension.
   .
   #Acute on chronic diastolic CHF: PAD not optimal due to inadequate
   diuresis; low CI and elev. SVR suggest need for incr. afterload
   reduction; likely [**2-23**] longstanding HTN, no focal WMA by echo to suggest
   CAD or prior infarct,  ECG w/o evidence of ischemia
   -cont diuresis to goal PAD 21-23 mmHg (PCWP 16-18 mmHg)
   -goal -2 L today
   -incr. captopril for better afterload reduction
   .
   #Pulm HTN
 PAD remain elevated due to left-sided CHF; not vasodilator
   responsive per cath [**2139-3-16**]
   -cont amlodipine although not likely to produce substantial response
   -treat left-sided CHF, as above
   .
   #Cirrhosis - awaiting transplant
   -continue rifaxamin, lactulose
   .
   #. Afib
 rate well-controlled
   -cont coumadin goal INR [**2-24**]
   -cont metoprolol
   -consider cardioversion if OSH records confirm recent therapeutic INR
   -d/c heparin drip today
   .
   #. HTN: well-controlled
   -continue BB, CCB
   .
   #. DVT/PE: Continue coumadin.  INR therapeutic today.
   .
   #. FEN: Replete lytes prn
   .
   #. Access:  PIV, swann -> tip placement reviewed and felt to be in good
   place after adjusting last night despite radiology read.
   .
   #. PPx:  PPI, bowel regimen, systemic AC
   .
   #. Emergency contact: sister [**Name (NI) **] [**Telephone/Fax (1) 5638**]
   .
   #. Code: FULL
   .
   #. Dispo: CCU for hemodynamic monitoring
   ICU Care
   Nutrition: low sodium diet
   Glycemic Control:
   Lines:
   PA Catheter - [**2139-5-18**] 10:30 AM
   20 Gauge - [**2139-5-18**] 11:00 AM
   Prophylaxis:
   DVT: systemic AC
   Stress ulcer: PPI
   VAP:
   Code status: FULL
   Disposition: CCU for hemodynamic monitoring
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined.  I agree with Dr.
   [**First Name (STitle) 156**]
s H+P, A+P.  ICU level care secondary to indwelling PA line.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2363**], MD
   on:[**2139-5-19**] 16:34 ------

2139-05-22 07:00:00 Physician Resident Progress Note
Chief Complaint: Acute on chronic diastolic CHF, pulm HTN
   24 Hour Events:
   -d/c'd heparin gtt given therapeutic INR
   -DC cardioversion -> SR
   -lasix 40 mg IV x 2
   Allergies:
   Sulfa (Sulfonamides)
   Unknown; Hives;
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2139-5-21**] 04:25 PM
   Other medications: metoprolol tartrate 25mg [**Hospital1 **], miralax, calcium
   carbonate 1000mg [**Hospital1 **], MVI, omeprazole 20mg daily, amlodipine 10mg PO
   daily, coumadin 5mg daily, lactulose 60mL PO q4h, captopril 12.5mg PO
   TID, rifaximin 400mg PO TID, senna 2tabs PO BID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Reports mild nausea yesterday relieved by zofran,
   vomiting x1. Denies chest pain, SOB
   Flowsheet Data as of  [**2139-5-22**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 52 (47 - 80) bpm
   BP: 98/57(67) {95/50(62) - 129/97(110)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 75 Inch
    CVP: 3 (-4 - 10)mmHg
   PAP: (60 mmHg) / (25 mmHg)
   PA (mean): 37
   CO/CI (Fick): (4.9 L/min) / (2.3 L/min/m2)
   Mixed Venous O2% Sat: 63 - 63
   Total In:
                                                                  1,185 mL
                                                                     70 mL
   PO:
                                                                    780 mL
   TF:
   IVF:
                                                                    405 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                      0 mL
   Urine:
                                                                  1,835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -650 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   Physical Examination
   GEN: well-appearing NAD
   HEENT: anicteric
   NECK: R swan cath c/d/i
   CV: reg rate nl S1 S2 no m/r/g
   PULM: no rales/rhonchi/wheezes
   ABD: soft NTND normoactive BS
   EXT: warm, dry +PP no edema
   Labs / Radiology
   116 K/uL
   14.4 g/dL
   94 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.1 mEq/L
   21 mg/dL
   102 mEq/L
   139 mEq/L
   43.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2139-5-19**]  11:49 AM
                             [**2139-5-19**]  02:38 PM
                             [**2139-5-19**]  11:11 PM
                             [**2139-5-20**]  04:23 AM
                             [**2139-5-20**]  04:53 AM
                             [**2139-5-20**]  02:10 PM
                             [**2139-5-21**]  03:59 AM
                             [**2139-5-21**]  04:28 AM
                             [**2139-5-21**]  03:17 PM
                             [**2139-5-22**]  05:23 AM
   WBC
   8.1
   11.6
   10.5
   Hct
   45
   44
   44.8
   47
   43.7
   40
   43.4
   Plt
   162
   156
   116
   Cr
   1.6
   1.5
   1.6
   1.6
   1.7
   1.5
   Glucose
   107
   119
   128
   97
   111
   94
   Other labs: PT / PTT / INR:24.0/39.0/2.3, ALT / AST:43/39, Alk Phos / T
   Bili:69/1.1, Amylase / Lipase:/39, Differential-Neuts:61.8 %,
   Lymph:23.9 %, Mono:12.1 %, Eos:1.7 %, Albumin:3.0 g/dL, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   53 M h/o cryptogenic cirrhosis awaiting transplant, portal HTN, pulm
   HTN, chronic diastolic dysfunction, CRI, PE and Afib on coumadin
   admitted for elective RHC demonstrating acute on chronic LV diastolic
   CHF and pulmonary hypertension.
   .
   #Acute on chronic diastolic CHF: hemodynamics improving, -4.5L LOS. In
   order to meet transplant requirements, mean PA pressures need to be
   less than 35; using PA diastolic pressures as a proxy for PCWP
   -cont diuresis to goal  1-2 L neg today or until Cr bumps
   -lasix 80mg IV this am then prn
   -[**Hospital1 **] lytes
   -incr. captopril prn as tolerated for improved afterload reduction
   -d/c swan when documented consistent mPAP <35
   .
   #Pulm HTN
 pulm pressures improving but not yet consistently at
   preoperative target of mPAP 35 mmHg, consistent with element of
   irreversible pulm HTN, also suggested by absence of response to inhaled
   NO at cath [**2139-3-16**]
   -cont amlodipine although not likely to produce substantial response
   given lack of vasodilator response
   -treat left-sided CHF, as above
   .
   #DVT/PE: INR 2.3 this am
   -cont coumadin (goal INR [**2-24**])
   .
   #Afib
 s/p successful cardioversion yesterday and remains in NSR
   -cont lopressor for rate-control
   -continue coumadin to maintain INR 2.0-3.0
   .
   #CRI
 Cr stable
   -cont monitor while diuresing
   .
   #Cirrhosis
 stable; awaiting transplant
   -continue rifaxamin, lactulose
   .
   #HTN: well-controlled
   -continue BB, CCB
   .
   #FEN: low Na diet; replete lytes prn
   .
   #Access:  PIV; Swan
   .
   #PPx:  PPI, bowel regimen, systemic AC
   .
   #Emergency contact: sister [**Name (NI) **] [**Telephone/Fax (1) 5638**]
   .
   #. Code: FULL
   .
   #. Dispo: CCU for hemodynamic monitoring while swan in place
   ICU Care
   Nutrition: low Na diet
   Lines:
   PA Catheter - [**2139-5-18**] 10:30 AM
   Prophylaxis:
   DVT: therapeutic on coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: CCU
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined.  I agree with Dr.
   [**Last Name (STitle) 164**]
s H+P, A+P.  We will continue to diurese in an effort to get PA
   pressures down.  Maintaining SR.   Continue with anticoagulation.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2363**], MD
   on:[**2139-5-22**] 15:24 ------

2139-05-23 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -continued diuresis with IV lasix; increased bolus dose from 40mg to
   80mg IV - got IV lasix x3
   -remained in NSR
   - mean PAP 35-37
   S: pt feels well denies SOB, CP, N/V, fevers or chills.
   Allergies:
   Sulfa (Sulfonamides)
   Unknown; Hives;
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2139-5-22**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-23**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 51 (51 - 68) bpm
   BP: 108/61(72) {96/53(64) - 126/92(96)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 75 Inch
    CVP: -1 (-1 - 5)mmHg
   PAP: (35 mmHg) / (19 mmHg)
   Total In:
                                                                  1,030 mL
                                                                    184 mL
   PO:
                                                                    790 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    240 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  2,225 mL
                                                                    300 mL
   Urine:
                                                                  1,825 mL
                                                                    300 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,195 mL
                                                                   -117 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   GEN: well-appearing NAD
   HEENT: anicteric
   NECK: R swan cath c/d/i
   CV: reg rate nl S1 S2 no m/r/g
   PULM: no rales/rhonchi/wheezes
   ABD: soft NTND normoactive BS
   EXT: warm, dry +PP no edema
   Labs / Radiology
   116 K/uL
   14.4 g/dL
   125 mg/dL
   1.9 mg/dL
   33 mEq/L
   3.7 mEq/L
   22 mg/dL
   97 mEq/L
   139 mEq/L
   43.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2139-5-19**]  02:38 PM
                             [**2139-5-19**]  11:11 PM
                             [**2139-5-20**]  04:23 AM
                             [**2139-5-20**]  04:53 AM
                             [**2139-5-20**]  02:10 PM
                             [**2139-5-21**]  03:59 AM
                             [**2139-5-21**]  04:28 AM
                             [**2139-5-21**]  03:17 PM
                             [**2139-5-22**]  05:23 AM
                             [**2139-5-22**]  04:20 PM
   WBC
   8.1
   11.6
   10.5
   Hct
   44
   44.8
   47
   43.7
   40
   43.4
   Plt
   162
   156
   116
   Cr
   1.6
   1.5
   1.6
   1.6
   1.7
   1.5
   1.9
   Glucose
   107
   119
   128
   97
   111
   94
   125
   Other labs: PT / PTT / INR:24.0/39.0/2.7,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   53 M h/o cryptogenic cirrhosis awaiting transplant, portal HTN, pulm
   HTN, chronic diastolic dysfunction, CRI, PE and Afib on coumadin
   admitted for elective RHC demonstrating acute on chronic LV diastolic
   CHF and pulmonary hypertension.
   .
   #Acute on chronic diastolic CHF: hemodynamics improving, -5.7L LOS. In
   order to meet transplant requirements, mean PA pressures need to be
   less than 35.  mPAP at 40 this am.   Pt is getting close to dry volume
   status by exam and labs.
   -cont diuresis to goal  500cc-1 L neg today, creatinine likely to rise
   with this diuresis
   -lasix 80mg IV this am then prn
   -[**Hospital1 **] lytes
   -cont. captopril prn
   -cont swan
   .
   #Pulm HTN
 pulm pressures improving but not yet consistently at
   preoperative target of mPAP 35 mmHg, consistent with element of
   irreversible pulm HTN, also suggested by absence of response to inhaled
   NO at cath [**2139-3-16**]
   -cont amlodipine although not likely to produce substantial response
   given lack of vasodilator response
   -treat left-sided CHF, as above
   .
   #DVT/PE: INR 2.7 this am
   -cont coumadin (goal INR [**2-24**])
   .
   #Afib
 s/p successful cardioversion and remains in NSR
   -cont lopressor for rate-control
   -continue coumadin to maintain INR 2.0-3.0
   .
   #CRI
 Cr increased
   -cont monitor while diuresing
   .
   #Cirrhosis
 stable; awaiting transplant
   -continue rifaxamin, lactulose
   .
   #HTN: well-controlled
   -continue BB, CCB
   .
   #FEN: low Na diet; replete lytes prn
   .
   #Access:  PIV; Swan
   .
   #PPx:  PPI, bowel regimen, systemic AC
   .
   #Emergency contact: sister [**Name (NI) **] [**Telephone/Fax (1) 5638**]
   .
   #. Code: FULL
   .
   #. Dispo: CCU for hemodynamic monitoring while swan in place
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2139-5-18**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined.  I agree with Dr.
   [**First Name (STitle) 156**]
s H+P, A+P.  Although creatinine has increased a bit, we will
   continue gentle diuresis in an effort to reduce PA pressures further.
   If creatinine continues to rise, we will need to back off diuresis.
   Dr. [**Last Name (STitle) 5279**] covering as of [**2139-5-24**].
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2363**], MD
   on:[**2139-5-23**] 11:01 ------

2139-05-24 07:15:00 Physician Resident Progress Note
Chief Complaint: Acute on chronic diastolic CHF, pulm HTN
   24 Hour Events:
   Rec
d lasix 80 mg IV x 2 -> 1550 out
   Allergies:
   Sulfa (Sulfonamides)
   Unknown; Hives;
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2139-5-23**] 03:00 PM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies fever, chills, CP, palp, cough, orthopnea,
   dyspnea
   Flowsheet Data as of  [**2139-5-24**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.2
   HR: 55 (52 - 81) bpm
   BP: 99/50(62) {80/30(48) - 131/89(119)} mmHg
   RR: 17 (14 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 75 Inch
    CVP: -3 (-3 - 17)mmHg
   PAP: (42 mmHg) / (13 mmHg)
   CO/CI (Fick): (7.2 L/min) / (3.4 L/min/m2)
   Mixed Venous O2% Sat: 76 - 76
   Total In:
                                                                    549 mL
                                                                     94 mL
   PO:
                                                                    280 mL
   TF:
   IVF:
                                                                    269 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    300 mL
   Urine:
                                                                  1,550 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,001 mL
                                                                   -206 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   GEN: well-appearing NAD
   HEENT: anicteric
   NECK: R swan cath c/d/i
   CV: reg rate nl S1 S2 no m/r/g
   PULM: no rales/rhonchi/wheezes
   ABD: soft NTND normoactive BS
   EXT: warm, dry +PP no edema
   Labs / Radiology
   100 K/uL
   14.5 g/dL
   100 mg/dL
   1.8 mg/dL
   29 mEq/L
   4.2 mEq/L
   27 mg/dL
   98 mEq/L
   135 mEq/L
   42.2 %
   12.5 K/uL
        [image002.jpg]
                             [**2139-5-20**]  02:10 PM
                             [**2139-5-21**]  03:59 AM
                             [**2139-5-21**]  04:28 AM
                             [**2139-5-21**]  03:17 PM
                             [**2139-5-22**]  05:23 AM
                             [**2139-5-22**]  04:20 PM
                             [**2139-5-23**]  05:22 AM
                             [**2139-5-23**]  06:24 AM
                             [**2139-5-23**]  05:22 PM
                             [**2139-5-24**]  01:58 AM
   WBC
   11.6
   10.5
   11.1
   12.5
   Hct
   43.7
   40
   43.4
   44.0
   44.0
   42.2
   Plt
   156
   116
   128
   100
   Cr
   1.6
   1.6
   1.7
   1.5
   1.9
   1.9
   2.0
   1.8
   Glucose
   128
   97
   111
   94
   125
   89
   131
   100
   Other labs: PT / PTT / INR:29.5/39.0/3.0, ALT / AST:43/39, Alk Phos / T
   Bili:69/1.1, Amylase / Lipase:/39, Differential-Neuts:61.8 %,
   Lymph:23.9 %, Mono:12.1 %, Eos:1.7 %, Albumin:3.0 g/dL, Ca++:8.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   53 M h/o cryptogenic cirrhosis awaiting transplant, portal HTN, pulm
   HTN, chronic diastolic dysfunction, CRI, PE and Afib on coumadin
   admitted for elective RHC demonstrating acute on chronic LV diastolic
   CHF and pulmonary hypertension.
   .
   #Acute on chronic diastolic CHF: hemodynamics improving, -6.8L LOS; Cr
   has remained relatively stable despite diuresis
   -cont diuresis to goal  1 L neg today
   -[**Hospital1 **] lytes
   -switch captopril to lisinopril 5 mg po daily
   -will attempt to wedge swan to see if mPAP correlate with PCWP
   .
   #Pulm HTN
 pulm pressures improving but not at preoperative target of
   mPAP 35 mmHg, consistent with element of irreversible pulm HTN, also
   suggested by absence of response to inhaled NO at cath [**2139-3-16**]
   -cont amlodipine although not likely to produce substantial response
   given lack of vasodilator response
   -treat left-sided CHF, as above
   .
   # Thrombocytopenia
 platelets decreased to 100 from 200 on admission,
   intermediate pre-test prob for HIT
   -recheck in PM
   -send heparin Ab
   .
   #DVT/PE - INR 3.0 this am
   -hold coumadin dose today
   .
   #Afib
 s/p successful cardioversion, remains in NSR
   -cont lopressor for rate-control
   -continue anticoagulation
   .
   #CKD
 Cr increased slightly but not in ARF range
   -cont monitor while diuresing
   .
   #Cirrhosis
 stable; awaiting transplant
   -continue rifaxamin, lactulose
   -Rx comorbidities as above
   .
   #HTN: well-controlled
   -continue BB, CCB
   .
   #FEN: low Na diet; replete lytes prn
   .
   #Access:  PIV; Swan
   .
   #PPx:  PPI, bowel regimen, systemic AC
   .
   #Emergency contact: sister [**Name (NI) **] [**Telephone/Fax (1) 5638**]
   .
   #. Code: FULL
   .
   #. Dispo: CCU for hemodynamic monitoring while swan in place
   ------ Protected Section ------
   I have reviewed the above progress note on [**2139-5-24**] at 12:47 PM by
   Dr. [**Last Name (STitle) 164**] and have reviewed the history with the patient, and was
   present during the physical examination noted above.  I concur with the
   assessment and treatment plan as outline above.   Mr. [**Known lastname **] presented
   with a acute on chronic diastolic left and right ventricular failure
   and was admitted for tailor therapy in the CCU with invasive
   monitoring.  He was diuresed an excess of 7 liters of fluid and his
   mean PA pressure in now 35 mmHg.  He has developed some degree of
   thrombocytopenia and we will evaluate its etiology. He is currently
   tolerating his dose of lopressor, Captopril, and Novasc in addition to
   his diuretics.  Our plan is outlined above and involves continued
   treatment of his acute on chronic diastolic heart failure.  This plan
   was communicated with the patient and all questions were addressed.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**], MD Cell [**Telephone/Fax (1) 5760**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2139-5-24**] 16:13 ------

2139-05-25 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -lasix 80 mg IV @ 0900 -> 1L out, -430 @ 1430, lasix 120 mg IV @ 1900
   -put on 1L fluid restriction
   -changed captopril to lisinopril
   -held coumadin for INR 3.0
   -plts stable, held off on ordering HIT/starting fondaparinux per
   heme-onc c/s
   -PCWP 25 mmHg, mPAP 45 mmHg
   Allergies:
   Sulfa (Sulfonamides)
   Unknown; Hives;
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications: coumadin 5mg PO daily, omeprazole 20mg daily, MVI,
   Calcium 1000mg PO BID, miralax, metoprolol 25mg PO BID, amlodipine 10mg
   PO daily, lactulose 60mL PO q6h, rifaximin 400mg PO TID, senna 2 tab PO
   BID, lisinopril 5mg PO daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: No complaints. Denies nausea, vomiting or abdominal
   pain. Eating well. +Bm
s daily. No SOB or chest pain
   Flowsheet Data as of  [**2139-5-25**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 54 (50 - 74) bpm
   BP: 99/85(88) {99/50(62) - 127/87(97)} mmHg
   RR: 25 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 75 Inch
    CVP: 12 (-3 - 12)mmHg
   PAP: (59 mmHg) / (27 mmHg)
   PCWP: 27 (25 - 31) mmHg
   CO/CI (Fick): (5.6 L/min) / (2.7 L/min/m2)
   SvO2: 72%
   Mixed Venous O2% Sat: 72 - 72
   Total In:
                                                                  2,005 mL
                                                                     66 mL
   PO:
                                                                  1,000 mL
   TF:
   IVF:
                                                                  1,005 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                  1,100 mL
   Urine:
                                                                  2,300 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -295 mL
                                                                 -1,034 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   GEN: well-appearing NAD
   HEENT: anicteric
   NECK: R swan cath c/d/i
   CV: reg rate nl S1 S2 no m/r/g
   PULM: no rales/rhonchi/wheezes
   ABD: soft NTND normoactive BS
   EXT: warm, dry +PP no edema
   Labs / Radiology
   123 K/uL
   14.8 g/dL
   89 mg/dL
   1.8 mg/dL
   29 mEq/L
   4.0 mEq/L
   27 mg/dL
   98 mEq/L
   137 mEq/L
   43.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2139-5-21**]  04:28 AM
                             [**2139-5-21**]  03:17 PM
                             [**2139-5-22**]  05:23 AM
                             [**2139-5-22**]  04:20 PM
                             [**2139-5-23**]  05:22 AM
                             [**2139-5-23**]  06:24 AM
                             [**2139-5-23**]  05:22 PM
                             [**2139-5-24**]  01:58 AM
                             [**2139-5-24**]  02:10 PM
                             [**2139-5-25**]  05:20 AM
   WBC
   10.5
   11.1
   12.5
   8.4
   9.5
   Hct
   40
   43.4
   44.0
   44.0
   42.2
   44.1
   43.7
   Plt
   116
   128
   100
   116
   123
   Cr
   1.7
   1.5
   1.9
   1.9
   2.0
   1.8
   1.9
   1.8
   Glucose
   111
   94
   125
   89
   131
   100
   128
   89
   Other labs: PT / PTT / INR:28.5/38.9/2.9, ALT / AST:43/39, Alk Phos / T
   Bili:69/1.1, Amylase / Lipase:/39, Differential-Neuts:61.8 %,
   Lymph:23.9 %, Mono:12.1 %, Eos:1.7 %, Albumin:3.0 g/dL, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   53 M h/o cryptogenic cirrhosis awaiting transplant, portal HTN, pulm
   HTN, chronic diastolic dysfunction, CRI, PE and Afib on coumadin
   admitted for elective RHC demonstrating acute on chronic LV diastolic
   CHF and pulmonary hypertension.
   .
   #Acute on chronic diastolic CHF- hemodynamics improving, -7.9L LOS; Cr
   has remained relatively stable despite diuresis
   -cont diuresis to goal  2-3 L neg today
   -will start lasix gtt
   -[**Hospital1 **] lytes
   -continue lisinopril 5 mg po daily
   .
   #Pulm HTN
 pulm pressures improving but not at preoperative target of
   mPAP 35 mmHg, consistent with element of irreversible pulm HTN, also
   suggested by absence of response to inhaled NO at cath [**2139-3-16**]. Based
   on wedge however, he has not been completely diuresed
   -cont amlodipine
   -treat left-sided CHF, as above
   .
   # Thrombocytopenia
 platelets decreased to 100 from 200 on admission,
   low pre-test prob for HIT. Recovering with no intervention
   -check platelets daily
   .
   #DVT/PE - INR 2.9 this am
   -cont coumadin
   .
   #Afib
 s/p successful cardioversion, remains in NSR
   -cont lopressor for rate-control
   .
   #CKD
 Cr remains stable at 1.8-2.0 despite aggressive diuresis
   -cont to monitor [**Hospital1 **] while diuresing
   .
   #Cirrhosis
 stable; awaiting transplant
   -continue rifaxamin, lactulose
   -Rx comorbidities as above
   .
   #HTN: well-controlled
   -continue BB, CCB
   .
   #FEN: low Na diet; fluid restrict to 1L; replete lytes prn
   .
   #Access:  PIV; Swan
   .
   #PPx:  PPI, bowel regimen, systemic AC
   .
   #Emergency contact: sister [**Name (NI) **] [**Telephone/Fax (1) 5638**]
   .
   #. Code: FULL
   .
   #. Dispo: CCU for hemodynamic monitoring while swan in place
   ------ Protected Section ------
   I have reviewed the above progress note on [**2139-5-25**] at 07:49 AM by
   Dr. [**First Name (STitle) 156**].  I have personally reviewed the history with the patient, and
   the physical examination noted above is consistent with my own today.
   I concur with the assessment and treatment plan as outline above.   Mr.
   [**Known lastname **] presented with a acute on chronic diastolic left and right
   ventricular failure and was admitted for tailor therapy in the CCU with
   invasive monitoring.  He was diuresed an excess of 7 liters of fluid
   and his mean PA pressure in now 35 mmHg, but has not changed
   significantly in the past 24 hours.  Our plan is outlined above and
   involves more aggressive treatment of his acute on chronic diastolic
   heart failure with intravenous diuretics.  This plan was communicated
   with the patient and all questions were addressed.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**], MD Cell [**Telephone/Fax (1) 5760**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2139-5-25**] 20:43 ------

2139-05-26 05:39:00 Physician Resident Progress Note
Chief Complaint: Acute on chronic diastolic CHF, pulm HTN
   24 Hour Events:
   -not meeting diuresis goals with bolus lasix therefore was started on
   lsix gtt with 120mg IV lasix bolus
   -INR 1.9 therefore coumadin restarted
   -I/O check @ 1400 - 900cc negative, inc lasix gtt from 10 to 20mg/hr
   -I/O check @ 1900 - 1600cc negative; re-bolused with lasix 120mg IV @
   [**2130**], however had minimal response
   -bolused 500cc diuril @2300
   Allergies:
   Sulfa (Sulfonamides)
   Unknown; Hives;
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2139-5-25**] 08:00 PM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies CP, palp, cough, SOB, abd pain, N/V
   Flowsheet Data as of  [**2139-5-26**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 51 (48 - 69) bpm
   BP: 99/62(71) {93/56(67) - 132/85(95)} mmHg
   RR: 23 (12 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 75 Inch
    CVP: 5 (3 - 12)mmHg
   PAP: (45 mmHg) / (20 mmHg)
   PCWP: 27 (27 - 27) mmHg
   Total In:
                                                                  1,236 mL
                                                                    135 mL
   PO:
                                                                    780 mL
   TF:
   IVF:
                                                                    456 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    725 mL
   Urine:
                                                                  2,950 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,714 mL
                                                                   -590 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///36/
   Physical Examination
   GEN: well-appearing NAD
   HEENT: anicteric
   NECK: R swan site c/d/i
   CV: reg rate nl S1S2 no m/r/g
   PULM: CTAB no w/r/r
   ABD: soft NTND normoactive BS
   EXT: warm, dry +PP no edema
   Labs / Radiology
   123 K/uL
   14.8 g/dL
   89 mg/dL
   1.9 mg/dL
   36 mEq/L
   3.6 mEq/L
   28 mg/dL
   97 mEq/L
   139 mEq/L
   43.7 %
   9.5 K/uL
                             [**2139-5-21**]  03:17 PM
                             [**2139-5-22**]  05:23 AM
                             [**2139-5-22**]  04:20 PM
                             [**2139-5-23**]  05:22 AM
                             [**2139-5-23**]  06:24 AM
                             [**2139-5-23**]  05:22 PM
                             [**2139-5-24**]  01:58 AM
                             [**2139-5-24**]  02:10 PM
                             [**2139-5-25**]  05:20 AM
                             [**2139-5-25**]  05:36 PM
   WBC
   10.5
   11.1
   12.5
   8.4
   9.5
   Hct
   43.4
   44.0
   44.0
   42.2
   44.1
   43.7
   Plt
   116
   128
   100
   116
   123
   Cr
   1.7
   1.5
   1.9
   1.9
   2.0
   1.8
   1.9
   1.8
   1.9
   Glucose
   111
   94
   125
   89
   131
   100
   128
   89
   89
   Other labs: PT / PTT / INR:28.5/38.9/2.9, ALT / AST:43/39, Alk Phos / T
   Bili:69/1.1, Amylase / Lipase:/39, Differential-Neuts:61.8 %,
   Lymph:23.9 %, Mono:12.1 %, Eos:1.7 %, Albumin:3.0 g/dL, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   53 M h/o cryptogenic cirrhosis awaiting transplant, portal HTN, pulm
   HTN, chronic diastolic dysfunction, CRI, PE and Afib on coumadin
   admitted for elective RHC demonstrating acute on chronic LV diastolic
   CHF and pulmonary hypertension.
   .
   #Acute on chronic diastolic CHF- hemodynamics improving, -9.5L LOS; Cr
   has remained relatively stable despite diuresis
   -cont lasix gtt with diuril/metolazone prn to achieve volume balance
   negative 2-3 L
   -continue lisinopril for afterload reduction, amlodipine for LV
   relaxation
   -[**Hospital1 **] lytes
   .
   #Pulm HTN
 pulm pressures improving but not consistently at
   pre-transplant target of mPAP 35 mmHg, consistent with inadequate
   diuresis, as well as element of irreversible pulm HTN (as suggested by
   absence of response to inhaled NO at cath [**2139-3-16**])
   -cont amlodipine
   -cont treat left-sided CHF, as above
   .
   # Thrombocytopenia
 stable
   -cont monitor daily
   .
   #DVT/PE - INR therapeutic
   -cont coumadin
   .
   #Afib
 s/p successful cardioversion, remains in NSR
   -telemetry
   .
   #CKD
 Cr remains stable at 1.8-2.0 despite aggressive diuresis
   -cont to monitor [**Hospital1 **] while diuresing
   .
   #Cirrhosis
 stable w/o evidence of decompensation; awaiting transplant
   -continue rifaxamin, lactulose
   .
   #HTN: well-controlled
   -continue BB, CCB
   .
   #FEN: low Na diet; 1L fluid restriction; replete lytes prn
   .
   #Access:  PIV; Swan
   .
   #PPx:  PPI, bowel regimen, systemic AC
   .
   #Emergency contact: sister [**Name (NI) **] [**Telephone/Fax (1) 5638**]
   .
   #. Code: FULL
   .
   #. Dispo: CCU for hemodynamic monitoring while swan in place
   ICU Care
   Nutrition: low Na diet, 1 L fluid restriction
   Lines:
   PA Catheter - [**2139-5-18**] 10:30 AM
   20 Gauge - [**2139-5-25**] 06:10 AM
   Prophylaxis:
   DVT: systemic AC
   Stress ulcer: PPI
   Communication:  patient; sister [**Name (NI) **] [**Telephone/Fax (1) 5638**]
   [**Name2 (NI) 129**] status:  FULL
   Disposition: CCU for hemodynamic monitoring while swan in place
   ------ Protected Section ------
   Agree with excellent PGY1 note.  Patient was weighed when mean PA
   pressures were sustained below < 35mmHg and after 8.5L of diuresis.
   His weight was 78kg.  At this point, plan is for more diuresis until
   dry weight is reached.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2355**], MD
   on:[**2139-5-26**] 11:34 ------
   I have reviewed the above progress note and addendum on [**2139-5-26**] at
   07:49 AM by Drs. [**Last Name (STitle) 164**] and [**Name5 (PTitle) 2355**].  I have personally reviewed the
   history with the patient, and the physical examination noted above is
   consistent with my own today.  I concur with the assessment and
   treatment plan as outline above.   Mr. [**Known lastname **] presented with a acute on
   chronic diastolic left and right ventricular failure and was admitted
   for tailor therapy in the CCU with invasive monitoring.  He continues
   to diuresed slowly with an additional 2-3 liters over the past 24
   hours.  [**MD Number(3) 5808**] in the mid 30s.  Our plan is outlined above and we
   will continue diuresis and aggressive treatment of his acute on chronic
   diastolic heart failure with intravenous diuretics.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**], MD Cell [**Telephone/Fax (1) 5760**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2139-5-26**] 15:56 ------

2139-05-27 06:54:00 Physician Resident Progress Note
Chief Complaint: acute on chronic diastolic CHF, pulm HTN
   24 Hour Events:
   - 1L negative at 7pm, Cr 2.0->2.6, remained -800 cc at MN
   Allergies:
   Sulfa (Sulfonamides)
   Unknown; Hives;
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies dizziness, lightheadedness, CP, palp, SOB,
   abd pain, N/V/D
   Flowsheet Data as of  [**2139-5-27**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 54 (46 - 66) bpm
   BP: 93/47(59) {87/47(59) - 131/101(109)} mmHg
   RR: 21 (12 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 78 kg (admission): 83.3 kg
   Height: 75 Inch
    CVP: 5 (1 - 9)mmHg
   PAP: 47/21 mmHg
   (37-57/21-32)
   mPAP 31 mmHg (30-41)
   Total In:
                                                                  1,416 mL
                                                                    166 mL
   PO:
                                                                    840 mL
                                TF:
   IVF:
                                                                    576 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    400 mL
   Urine:
                                                                  2,250 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -834 mL
                                                                   -234 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   Physical Examination
   GEN: well-appearing NAD
   HEENT: anicteric
   NECK: R swan site c/d/i
   CV: reg rate nl S1S2 no m/r/g
   PULM: CTAB no w/r/r
   ABD: soft NTND normoactive BS
   EXT: warm, dry +PP no edema
   Labs / Radiology
   136 K/uL
   15.5 g/dL
   85 mg/dL
   2.4 mg/dL
   34 mEq/L
   3.9 mEq/L
   43 mg/dL
   96 mEq/L
   138 mEq/L
   47.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2139-5-23**]  05:22 AM
                             [**2139-5-23**]  06:24 AM
                             [**2139-5-23**]  05:22 PM
                             [**2139-5-24**]  01:58 AM
                             [**2139-5-24**]  02:10 PM
                             [**2139-5-25**]  05:20 AM
                             [**2139-5-25**]  05:36 PM
                             [**2139-5-26**]  05:41 AM
                             [**2139-5-26**]  04:19 PM
                             [**2139-5-27**]  05:53 AM
   WBC
   11.1
   12.5
   8.4
   9.5
   8.7
   Hct
   44.0
   44.0
   42.2
   44.1
   43.7
   47.2
   Plt
   128
   100
   116
   123
   136
   Cr
   1.9
   2.0
   1.8
   1.9
   1.8
   1.9
   2.0
   2.6
   2.4
   Glucose
   89
   131
   100
   128
   89
   89
   93
   63
   85
   Other labs: PT / PTT / INR:26.4/36.3/2.6, ALT / AST:43/39, Alk Phos / T
   Bili:69/1.1, Amylase / Lipase:/39, Differential-Neuts:61.8 %,
   Lymph:23.9 %, Mono:12.1 %, Eos:1.7 %, Albumin:3.0 g/dL, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   53 M h/o cryptogenic cirrhosis awaiting transplant, portal HTN, pulm
   HTN, chronic diastolic dysfunction, CRI, PE and Afib on coumadin
   admitted for elective RHC demonstrating acute on chronic LV diastolic
   CHF and pulmonary hypertension.
   .
   #Acute on chronic diastolic CHF- hemodynamics improving, -10L LOS;
   Cr/HCO3 indicating that likely has reached dry weight
   -stop lasix gtt
   -determine PO lasix dose needed to keep even
   -continue lisinopril for afterload reduction, amlodipine for LV
   relaxation
   -[**Hospital1 **] lytes
   -check BNP to establish dry weight value
   -check PCWP at dry weight prior to d/c swan
   .
   #Pulm HTN
 pulm pressures improving with most [**Location (un) 103**] reflecting
   pre-transplant target of mPAP 35 mmHg; likely has element of
   irreversible pulm HTN given h/o PE, possible portopulmonary syndrome
   (as suggested by absence of response to inhaled NO at cath [**2139-3-16**])
   -will discuss progress/outpt mgmt with transplant team
   -cont amlodipine
   -cont treat left-sided CHF, as above
   .
   #DVT/PE - INR therapeutic
   -cont coumadin
   .
   #Afib
 s/p successful cardioversion, remains in NSR
   -telemetry
   .
   #CKD
 Cr rising in the setting of aggressive diuresis
   -[**Hospital1 **] lytes, Cr
   .
   #Cirrhosis
 stable w/o evidence of decompensation; awaiting transplant
   -continue rifaxamin, lactulose
   .
   #HTN: well-controlled
   -decr. lopressor given bradycardia since now s/p cardioversion and
   doesn
t need rate control
   -continue CCB
   .
   #FEN: low Na diet; 1L fluid restriction; replete lytes prn
   .
   #Access:  PIV; Swan
   .
   #PPx:  PPI, bowel regimen, systemic AC
   .
   #Emergency contact: sister [**Name (NI) **] [**Telephone/Fax (1) 5638**]
   .
   #. Code: FULL
   .
   #. Dispo: CCU for hemodynamic monitoring while swan in place then call
   out to floor
   ICU Care
   Nutrition: low Na diet, 1 L fluid restriction
   Lines:
   PA Catheter - [**2139-5-18**] 10:30 AM
   20 Gauge - [**2139-5-25**] 06:10 AM
   Prophylaxis:
   DVT: systemic AC
   Stress ulcer: PPI
   Code status: FULL
   Disposition: CCU for hemodynamic monitoring while swan in place then
   call out to floor
   ------ Protected Section ------
   I have reviewed the above progress note and addendum on [**2139-5-27**] by
   Dr. [**Last Name (STitle) 164**].  I have personally reviewed the history with the patient, and
   the physical examination noted above is consistent with my own today.
   I concur with the assessment and treatment plan as outline above.   Mr.
   [**Known lastname **] is reaching maximum diuresis with a PCWP of 9 mmHg and if this
   remains stable this afternoon, we will remove the PA catheter line
   later today.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**], MD Cell [**Telephone/Fax (1) 5760**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2139-5-27**] 15:09 ------

2139-05-28 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Cr 2.4 PCWP 9, gave 250 cc NS bolus; repeat PCWP 7
   -d/c'd lasix gtt @ 1030
   -d/c'd swan/cordis (has PIV)
   -decr. lopressor 25 mg [**Hospital1 **] to 12.5 mg [**Hospital1 **] [**2-23**] bradycardia
   -ordered lasix 80 mg PO daily to start AM [**5-28**]
   Allergies:
   Sulfa (Sulfonamides)
   Unknown; Hives;
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-28**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 57 (50 - 69) bpm
   BP: 109/75(83) {83/49(57) - 128/90(96)} mmHg
   RR: 17 (13 - 45) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 78 kg (admission): 83.3 kg
   Height: 75 Inch
    CVP: 1 (1 - 8)mmHg
   PAP: (44 mmHg) / (16 mmHg)
   PCWP: 7 (7 - 9.[**Numeric Identifier 1955**]) mmHg
                                Total In:
                                                                  1,202 mL
                                                                     73 mL
   PO:
                                                                    380 mL
                                TF:
   IVF:
                                                                    822 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    550 mL
   Urine:
                                                                  1,500 mL
                                                                    400 mL
   NG:
                                                                    250 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -548 mL
                                                                   -477 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   172 K/uL
   15.0 g/dL
   104 mg/dL
   2.3 mg/dL
   25 mEq/L
   4.2 mEq/L
   42 mg/dL
   98 mEq/L
   135 mEq/L
   44.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2139-5-23**]  05:22 PM
                             [**2139-5-24**]  01:58 AM
                             [**2139-5-24**]  02:10 PM
                             [**2139-5-25**]  05:20 AM
                             [**2139-5-25**]  05:36 PM
                             [**2139-5-26**]  05:41 AM
                             [**2139-5-26**]  04:19 PM
                             [**2139-5-27**]  05:53 AM
                             [**2139-5-27**]  01:32 PM
                             [**2139-5-28**]  02:59 AM
   WBC
   12.5
   8.4
   9.5
   8.7
   9.4
   9.5
   Hct
   42.2
   44.1
   43.7
   47.2
   45.6
   44.0
   Plt
   100
   116
   123
   136
   163
   172
   Cr
   2.0
   1.8
   1.9
   1.8
   1.9
   2.0
   2.6
   2.4
   2.4
   2.3
   Glucose
   131
   100
   128
   89
   89
   93
   63
   85
   125
   104
   Other labs: PT / PTT / INR:29.2/39.0/3.0, ALT / AST:43/39, Alk Phos / T
   Bili:69/1.1, Amylase / Lipase:/39, Differential-Neuts:61.8 %,
   Lymph:23.9 %, Mono:12.1 %, Eos:1.7 %, Albumin:3.0 g/dL, Ca++:8.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   53 M h/o cryptogenic cirrhosis awaiting transplant, portal HTN, pulm
   HTN, chronic diastolic dysfunction, CRI, PE and Afib on coumadin
   admitted for elective RHC demonstrating acute on chronic LV diastolic
   CHF and pulmonary hypertension.
   .
   #Acute on chronic diastolic CHF- hemodynamics improving, -10L LOS;
   Cr/HCO3 indicating that likely has reached dry weight
   -stop lasix gtt
   -determine PO lasix dose needed to keep even
   -continue lisinopril for afterload reduction, amlodipine for LV
   relaxation
   -[**Hospital1 **] lytes
   -check BNP to establish dry weight value
   -check PCWP at dry weight prior to d/c swan
   .
   #Pulm HTN
 pulm pressures improving with most [**Location (un) 103**] reflecting
   pre-transplant target of mPAP 35 mmHg; likely has element of
   irreversible pulm HTN given h/o PE, possible portopulmonary syndrome
   (as suggested by absence of response to inhaled NO at cath [**2139-3-16**])
   -will discuss progress/outpt mgmt with transplant team
   -cont amlodipine
   -cont treat left-sided CHF, as above
   .
   #DVT/PE - INR therapeutic
   -cont coumadin
   .
   #Afib
 s/p successful cardioversion, remains in NSR
   -telemetry
   .
   #CKD
 Cr rising in the setting of aggressive diuresis
   -[**Hospital1 **] lytes, Cr
   .
   #Cirrhosis
 stable w/o evidence of decompensation; awaiting transplant
   -continue rifaxamin, lactulose
   .
   #HTN: well-controlled
   -decr. lopressor given bradycardia since now s/p cardioversion and
   doesn
t need rate control
   -continue CCB
   .
   #FEN: low Na diet; 1L fluid restriction; replete lytes prn
   .
   #Access:  PIV; Swan
   .
   #PPx:  PPI, bowel regimen, systemic AC
   .
   #Emergency contact: sister [**Name (NI) **] [**Telephone/Fax (1) 5638**]
   .
   #. Code: FULL
   .
   #. Dispo: CCU for hemodynamic monitoring while swan in place then call
   out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-5-27**] 11:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-05-28 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PA CATHETER - STOP [**2139-5-27**] 05:28 PM
   Allergies:
   Sulfa (Sulfonamides)
   Unknown; Hives;
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-28**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 57 (50 - 69) bpm
   BP: 109/75(83) {83/49(57) - 128/90(96)} mmHg
   RR: 17 (13 - 45) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 78 kg (admission): 83.3 kg
   Height: 75 Inch
    CVP: 1 (1 - 8)mmHg
   PAP: (44 mmHg) / (16 mmHg)
   PCWP: 7 (7 - 9.[**Numeric Identifier 1955**]) mmHg
                                Total In:
                                                                  1,202 mL
                                                                     80 mL
   PO:
                                                                    380 mL
                                TF:
   IVF:
                                                                    822 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    550 mL
   Urine:
                                                                  1,500 mL
                                                                    400 mL
   NG:
                                                                    250 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -548 mL
                                                                   -470 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   172 K/uL
   15.0 g/dL
   104 mg/dL
   2.3 mg/dL
   25 mEq/L
   4.2 mEq/L
   42 mg/dL
   98 mEq/L
   135 mEq/L
   44.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2139-5-23**]  05:22 PM
                             [**2139-5-24**]  01:58 AM
                             [**2139-5-24**]  02:10 PM
                             [**2139-5-25**]  05:20 AM
                             [**2139-5-25**]  05:36 PM
                             [**2139-5-26**]  05:41 AM
                             [**2139-5-26**]  04:19 PM
                             [**2139-5-27**]  05:53 AM
                             [**2139-5-27**]  01:32 PM
                             [**2139-5-28**]  02:59 AM
   WBC
   12.5
   8.4
   9.5
   8.7
   9.4
   9.5
   Hct
   42.2
   44.1
   43.7
   47.2
   45.6
   44.0
   Plt
   100
   116
   123
   136
   163
   172
   Cr
   2.0
   1.8
   1.9
   1.8
   1.9
   2.0
   2.6
   2.4
   2.4
   2.3
   Glucose
   131
   100
   128
   89
   89
   93
   63
   85
   125
   104
   Other labs: PT / PTT / INR:29.2/39.0/3.0, ALT / AST:43/39, Alk Phos / T
   Bili:69/1.1, Amylase / Lipase:/39, Differential-Neuts:61.8 %,
   Lymph:23.9 %, Mono:12.1 %, Eos:1.7 %, Albumin:3.0 g/dL, Ca++:8.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   53 M h/o cryptogenic cirrhosis awaiting transplant, portal HTN, pulm
   HTN, chronic diastolic dysfunction, CRI, PE and Afib on coumadin
   admitted for elective RHC demonstrating acute on chronic LV diastolic
   CHF and pulmonary hypertension.
   .
   #Acute on chronic diastolic CHF- hemodynamics improving, -10L LOS;
   Cr/HCO3 indicating that likely has reached dry weight
   -stop lasix gtt
   -determine PO lasix dose needed to keep even
   -continue lisinopril for afterload reduction, amlodipine for LV
   relaxation
   -[**Hospital1 **] lytes
   -check BNP to establish dry weight value
   -check PCWP at dry weight prior to d/c swan
   .
   #Pulm HTN
 pulm pressures improving with most [**Location (un) 103**] reflecting
   pre-transplant target of mPAP 35 mmHg; likely has element of
   irreversible pulm HTN given h/o PE, possible portopulmonary syndrome
   (as suggested by absence of response to inhaled NO at cath [**2139-3-16**])
   -will discuss progress/outpt mgmt with transplant team
   -cont amlodipine
   -cont treat left-sided CHF, as above
   .
   #DVT/PE - INR therapeutic
   -cont coumadin
   .
   #Afib
 s/p successful cardioversion, remains in NSR
   -telemetry
   .
   #CKD
 Cr rising in the setting of aggressive diuresis
   -[**Hospital1 **] lytes, Cr
   .
   #Cirrhosis
 stable w/o evidence of decompensation; awaiting transplant
   -continue rifaxamin, lactulose
   .
   #HTN: well-controlled
   -decr. lopressor given bradycardia since now s/p cardioversion and
   doesn
t need rate control
   -continue CCB
   .
   #FEN: low Na diet; 1L fluid restriction; replete lytes prn
   .
   #Access:  PIV; Swan
   .
   #PPx:  PPI, bowel regimen, systemic AC
   .
   #Emergency contact: sister [**Name (NI) **] [**Telephone/Fax (1) 5638**]
   .
   #. Code: FULL
   .
   #. Dispo: CCU for hemodynamic monitoring while swan in place then call
   out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-5-27**] 11:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-05-28 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Cr 2.4 PCWP 9, gave 250 cc NS bolus; repeat PCWP 7
   -d/c'd lasix gtt @ 1030
   -d/c'd swan/cordis (has PIV)
   -decr. lopressor 25 mg [**Hospital1 **] to 12.5 mg [**Hospital1 **] [**2-23**] bradycardia
   -ordered lasix 80 mg PO daily to start AM [**5-28**]
   Allergies:
   Sulfa (Sulfonamides)
   Unknown; Hives;
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-28**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 57 (50 - 69) bpm
   BP: 109/75(83) {83/49(57) - 128/90(96)} mmHg
   RR: 17 (13 - 45) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 78 kg (admission): 83.3 kg
   Height: 75 Inch
    CVP: 1 (1 - 8)mmHg
   PAP: (44 mmHg) / (16 mmHg)
   PCWP: 7 (7 - 9.[**Numeric Identifier 1955**]) mmHg
                                Total In:
                                                                  1,202 mL
                                                                     83 mL
   PO:
                                                                    380 mL
                                TF:
   IVF:
                                                                    822 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    550 mL
   Urine:
                                                                  1,500 mL
                                                                    400 mL
   NG:
                                                                    250 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -548 mL
                                                                   -467 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   GEN: well-appearing NAD
   HEENT: anicteric
   NECK: R swan site c/d/i
   CV: reg rate nl S1S2 no m/r/g
   PULM: CTAB no w/r/r
   ABD: soft NTND normoactive BS
   EXT: warm, dry +PP no edema
   Labs / Radiology
   172 K/uL
   15.0 g/dL
   104 mg/dL
   2.3 mg/dL
   25 mEq/L
   4.2 mEq/L
   42 mg/dL
   98 mEq/L
   135 mEq/L
   44.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2139-5-23**]  05:22 PM
                             [**2139-5-24**]  01:58 AM
                             [**2139-5-24**]  02:10 PM
                             [**2139-5-25**]  05:20 AM
                             [**2139-5-25**]  05:36 PM
                             [**2139-5-26**]  05:41 AM
                             [**2139-5-26**]  04:19 PM
                             [**2139-5-27**]  05:53 AM
                             [**2139-5-27**]  01:32 PM
                             [**2139-5-28**]  02:59 AM
   WBC
   12.5
   8.4
   9.5
   8.7
   9.4
   9.5
   Hct
   42.2
   44.1
   43.7
   47.2
   45.6
   44.0
   Plt
   100
   116
   123
   136
   163
   172
   Cr
   2.0
   1.8
   1.9
   1.8
   1.9
   2.0
   2.6
   2.4
   2.4
   2.3
   Glucose
   131
   100
   128
   89
   89
   93
   63
   85
   125
   104
   Other labs: PT / PTT / INR:29.2/39.0/3.0, ALT / AST:43/39, Alk Phos / T
   Bili:69/1.1, Amylase / Lipase:/39, Differential-Neuts:61.8 %,
   Lymph:23.9 %, Mono:12.1 %, Eos:1.7 %, Albumin:3.0 g/dL, Ca++:8.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   53 M h/o cryptogenic cirrhosis awaiting transplant, portal HTN, pulm
   HTN, chronic diastolic dysfunction, CRI, PE and Afib on coumadin
   admitted for elective RHC demonstrating acute on chronic LV diastolic
   CHF and pulmonary hypertension.
   .
   #Acute on chronic diastolic CHF- hemodynamics improving, -10L LOS;
   Cr/HCO3 indicating that likely has reached dry weight
   -start lasix 80 PO dose needed to keep even
   -daily weights; strict I/Os.
   -continue lisinopril for afterload reduction, amlodipine for LV
   relaxation
   -[**Hospital1 **] lytes
   -check BNP to establish dry weight value
   .
   #Pulm HTN
 pulm pressures improving with most [**Location (un) 103**] reflecting
   pre-transplant target of mPAP 35 mmHg; likely has element of
   irreversible pulm HTN given h/o PE, possible portopulmonary syndrome
   (as suggested by absence of response to inhaled NO at cath [**2139-3-16**])
   -will discuss progress/outpt mgmt with transplant team
   -cont amlodipine
   -cont treat left-sided CHF, as above
   .
   #DVT/PE - INR therapeutic
   -decrease coumadin dose to 4mg Qhs
   .
   #Afib
 s/p successful cardioversion, remains in NSR
   -telemetry
   .
   #CKD
 Cr rising in the setting of aggressive diuresis
   -[**Hospital1 **] lytes, Cr
   .
   #Cirrhosis
 stable w/o evidence of decompensation; awaiting transplant
   -continue rifaxamin, lactulose
   .
   #HTN: well-controlled
   -decr. lopressor given bradycardia since now s/p cardioversion and
   doesn
t need rate control
   -continue CCB
   .
   #FEN: low Na diet; 1L fluid restriction; replete lytes prn
   .
   #Access:  PIV; Swan
   .
   #PPx:  PPI, bowel regimen, systemic AC
   .
   #Emergency contact: sister [**Name (NI) **] [**Telephone/Fax (1) 5638**]
   .
   #. Code: FULL
   .
   #. Dispo: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-5-27**] 11:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have reviewed the above progress note and addendum on [**2139-5-28**] by
   Dr. [**First Name (STitle) 156**].  I have reviewed the history and physical and I was present
   due the clinical aspects of the examination today.   I concur with the
   assessment and treatment plan as outline above.   Mr. [**Known lastname **] has
   reached a stable fluid status and a mPAP < 35 mmHg.  We will remove the
   PA catheter and transfer to the [**Hospital1 **] to continued monitoring of his
   fluid status.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**], MD Cell [**Telephone/Fax (1) 5760**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2139-5-28**] 14:36 ------